US03953411
4-Anilinophenyl hydrogen maleate was prepared by adding 10 grams of maleic anhydride to a solution of the potassium salt of 4-anilinophenol which was prepared by dissolving 18.5 grams of 4-anilinophenol in a solution of potassium tert.butoxide prepared by reacting 3.9 grams of potassium with 75 milliliters of tert.butyl alcohol. The reaction mixture was stirred for 2 hours at 65°-70° C. and was then poured into a solution of 12 milliliters of concentrated hydrochloric acid in 138 milliliters of water. The organic layer was separated by extraction with benzene. The extract was washed twice with water and then allowed to evaporate. The residue was recrystallized twice from benzene yielding 1.3 grams of product which melted at 139°-142° C.

reactant | maleic anhydride | 10 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | potassium | [K] | K
reactant | 4-anilinophenol | N(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H11NO
reactant | 4-anilinophenol | 18.5 grams | N(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H11NO
reactant | potassium | 3.9 grams | [K] | K
reactant | hydrochloric acid | 12 milliliters | Cl | ClH
solvent | potassium tert.butoxide | CC(C)([O-])C.[K+]
solvent | water | 138 milliliters | O | H2O
solvent | tert.butyl alcohol | 75 milliliters | C(C)(C)(C)O | C4H10O
product | 4-Anilinophenyl hydrogen maleate | C(\C=C/C(=O)O)(=O)OC1=CC=C(C=C1)NC1=CC=CC=C1 | C16H13NO4
